US07501438B2
Preparation of 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid adamantan-1-ylamide
To a solution of 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid (150 mg, 0.56 mmol) in DMF (5 mL) was added EDC (161 mg, 0.84 mmol), HOBt, (90 mg, 0.67 mmol) and Et3N (0.23 mL, 1.68 mmol). The mixture was allowed to stir for 10 min. and adamantylamine (93 mg, 0.62 mmol) was added. The mixture was stirred for 15 h then diluted with ethyl acetate (30 mL) and washed with water (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield the title compound (157 mg, 80%). 1H NMR (DMSO-d6) δ 8.31 (1H), 8.02 (1H), 7.04 (1H), 6.93 (1H), 6.81 (1H), 2.99 (2H), 2.08 (9H), 1.67 (8H), 1.38 (2H), 0.92 (3H); m/z (M+H)=352.1.

reactant | 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid | 0.56 mmol, 150 mg | C(CCC)C1=NC(=C2N1C=CC=C2)C(=O)O | C12H14N2O2
reactant | EDC | 0.84 mmol, 161 mg
reactant | HOBt | 0.67 mmol, 90 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.68 mmol, 0.23 mL | CCN(CC)CC | C6H15N
reactant | adamantylamine | 0.62 mmol, 93 mg | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-butyl-imidazo[1,5-a]pyridine-1-carboxylic acid adamantan-1-ylamide | 157 mg, 80% | C12(CC3CC(CC(C1)C3)C2)NC(=O)C=2N=C(N3C2C=CC=C3)CCCC | C22H29N3O
